### PR TITLE
feat(Tensors): PermCond.snoc PermCond.succAbove

### PR DESCRIPTION
**Pull request by jstoobysmith**
Results related to the permutation of indices of tensors.

### CODE REVIEW

File: Physlib/Relativity/Tensors/Basic.lean [hunk 1]
```diff
@@ -677,6 +683,99 @@ lemma PermCond.comp {n n1 n2 : ℕ} {c : Fin n → C} {c1 : Fin n1 → C}
...
+        Fin.succ_succAbove_predAbove (hpr ▸ hne x2)] at h'
+    simpa using h2
+  · intro k
+    simp only [Function.comp_apply]
+    suffices h' : ∃ a, σ (i.succAbove a) = (σ i).succAbove k by
+      conv => enter [1, a]; rw [← ((σ i).pred hi).succ.succAbove_right_injective.eq_iff]
+      obtain ⟨a, h'⟩ := h'
+      exact ⟨a, by rw [Fin.succ_succAbove_predAbove (hpr ▸ hne a), ← hpr]; exact h'⟩
+    obtain ⟨j, hj⟩ := h.surjective ((σ i).succAbove k)
+    simp [← hj, h.injective.eq_iff]
```
Comment (morrison-daniel) [inline Physlib/Relativity/Tensors/Basic.lean]: Simp only

Comment (jstoobysmith) [reply Physlib/Relativity/Tensors/Basic.lean]: Fixed

**Comment by jstoobysmith** [comment]
-awaiting-author

**Review by morrison-daniel — DISMISSED** [review]

**Comment by jstoobysmith** [comment]
@morrison-daniel Fixed merge conflict, which dismissed your review.

**Review by morrison-daniel — APPROVED** [review]
